US08633173B2
N-Methyl-N-[3-({2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (51.0 mg, 0.247 mmol) (prepared as described in J. Med. Chem., 2006, 49, 4451-4454) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.021 g, 19%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.42-8.39 (m, 1H), 7.85 (d, J=7.6 z, 1H), 7.80 (d, J=6.6 Hz, 1H), 7.48 (d, J=8.9 Hz, 2H), 7.30-7.25 (m, 1H), 6.92 (d, J=9.0 Hz, 2H), 6.64 (t, J=7.4 Hz, 1H), 6.52 (s, 1H), 6.29 (d, J=7.8 Hz, 1H), 5.27 (t, J=6.2, 1H), 4.77 (d, J=6.4 Hz, 2H), 4.10 (t, J=6.0 Hz, 2H), 3.32 (s, 3H), 3.09 (s, 3H), 2.90 (t, J=6.0 Hz, 2H), 2.68-2.58 (m, 4H), 1.86-1.76 (m, 4H). MS=537 (MH)+.

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.247 mmol, 51.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-[3-({2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-methanesulfonamide | CN(S(=O)(=O)C)C1=NC=CC=C1CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C26H32N8O3S
